US07166595B2
To a solution of 1-benzyl-2-{(R)-[(3-tert-butoxycarbonylamino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid (100 mg, 0.169 mmol) in CH2Cl2 (1.7 mL) was added EDC (36 mg, 0.186 mmol), HOBt (25 mg, 0.186 mmol), TEA (28 uL, 0.203 mmol) followed by ethylamine (85 uL of a 2.0M solution in THF, 0.169 mmol). The reaction mixture was stirred at ambient temperature for 16 h, then TFA (1 mL) was added. After 3 h, the reaction mixture was concentrated under reduced pressure and the residue was purified by reverse phase HPLC to give 47 mg (53%) of 2-{(R)-[(3-amino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-1-benzyl-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5carboxylic acid ethylamide as a pale yellow solid: MS (ES) m/e 518.4 (M+H)+.

reactant | 1-benzyl-2-{(R)-[(3-tert-butoxycarbonylamino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5-carboxylic acid | 0.169 mmol, 100 mg | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C(=O)O)C)[C@](CC)(C)N(C(=O)C1=CC=C(C=C1)C)CCCNC(=O)OC(C)(C)C | C33H42N4O6
reactant | EDC | 0.186 mmol, 36 mg
reactant | HOBt | 0.186 mmol, 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethylamine | C(C)N | C2H7N
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1.7 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 2-{(R)-[(3-amino-propyl)-(1-p-tolyl-methanoyl)-amino]-methyl-propyl}-1-benzyl-4-methyl-6-oxo-1,6-dihydro-pyrimidine-5carboxylic acid ethylamide | 47 mg, 53% | C(C)NC(=O)C1=C(N=C(N(C1=O)CC1=CC=CC=C1)[C@](CC)(C)N(C(=O)C1=CC=C(C=C1)C)CCCN)C | C30H39N5O3
